US08802712B2
4-(8-Benzyloxy-7-methoxy-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile (2.50 g, 6.15 mmol) is dissolved in N,N-dimethylformamide (72 ml). K2CO3 (1.70 g, 12.3 mmol) and iodomethane (421 μl, 6.76 mmol) are subsequently added at room temperature, and the reaction mixture is stirred for 18 h (TLC (HPTLC) monitoring). The mixture is then added to water (500 ml) and stirred for 30 min. The precipitate obtained is filtered off with suction and chromatographed over flash silica gel (120 g, solvent gradient cyclohexane/0-100% by vol. of ethyl acetate/0-40% by vol. of ethanol). The residue from the product fractions is suspended in 2-propanol, filtered off with suction and dried in a high vacuum, giving 4-(8-benzyloxy-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile (1.79 g, 4.27 mmol) as a solid having a melting point of 230.4° C. MS: 421.1 (M+H+), TLC (HPTLC): Rf=0.44 (ethyl acetate/ethanol 8:1, parts by volume).

reactant | 4-(8-Benzyloxy-7-methoxy-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile | 6.15 mmol, 2.50 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1OC)NN=C3C3=CC=C(C#N)C=C3 | C25H18N4O2
reactant | K2CO3 | 12.3 mmol, 1.70 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 6.76 mmol, 421 μl | IC | CH3I
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 72 ml | CN(C=O)C | C3H7NO
product | 4-(8-benzyloxy-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile | 4.27 mmol, 1.79 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1OC)N(N=C3C3=CC=C(C#N)C=C3)C | C26H20N4O2
